US05700801
b) N-[1-Benzyl-4-piperidinyl]-N-tert.butyloxycarbonyl-glycine methyl ester dihydrochloride
Prepared from N-[1-benzyl-4-piperidinyl]-glycine methyl ester hydrochloride, di-tert.butyldicarbonate and triethylamine.

reactant | N-[1-benzyl-4-piperidinyl]-glycine methyl ester hydrochloride | Cl.COC(CNC1CCN(CC1)CC1=CC=CC=C1)=O
reactant | di-tert.butyldicarbonate | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-[1-Benzyl-4-piperidinyl]-N-tert.butyloxycarbonyl-glycine methyl ester dihydrochloride | Cl.Cl.COC(CN(C(=O)OC(C)(C)C)C1CCN(CC1)CC1=CC=CC=C1)=O | InChI=1S/C20H30N2O4.2ClH/c1-20(2,3)26-19(24)22(15-18(23)25-4)17-10-12-21(13-11-17)14-16-8-6-5-7-9-16;;/h5-9,17H,10-15H2,1-4H3;2*1H
